US07915411B2
Butyrylamino-acetic acid methyl ester
A suspension of glycine hydrochloride (1.00 g, 7.964 mmol) in methylene chloride (40 mL), cooled to 0° under a nitrogen atmosphere, was treated with triethylamine (4.44 mL, 31.86 mmol) and butyryl chloride (0.93 mL, 8.76 mmol), and the mixture stirred at room temperature for 2.5 hours. The reaction was washed with saturated aqueous sodium bicarbonate (50 mL), water (50 mL) and brine. The organic phase was dried over anhydrous sodium sulfate, filtered and concentrated under vacuum giving the title compound. Purification by silica gel flash chromatography with 25% ethyl acetate/methylene chloride afforded the title compound as a colorless oil (0.776 g, 4.88 mmol, 61%).

reactant | glycine hydrochloride | 7.964 mmol, 1.00 g | Cl.NCC(=O)O
reactant | triethylamine | 31.86 mmol, 4.44 mL | C(C)N(CC)CC | C6H15N
reactant | butyryl chloride | 8.76 mmol, 0.93 mL | C(CCC)(=O)Cl | C4H7ClO
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | Butyrylamino-acetic acid methyl ester | COC(CNC(CCC)=O)=O | C7H13NO3
